US07718693B2
Crude 1-ethyl-5-oxo-4-(phenylmethyl)-proline (0.052 g, 0.09 mmol, prepared as described below) was suspended in a mixture of dichloromethane (0.5 ml) and dimethylformamide (0.5 ml) and to this was added N-ethyl morpholine (0.034 ml, 0.27 mmol) causing most of the material to dissolve. 1-Hydroxybenzotriazole (0.016 g, 0.12 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.022 g, 0.12 mmol) were then added and the mixture was stirred for 10 minutes before adding [(2-chloro-4-fluorophenyl)methyl]amine (0.019 g, 0.12 mmol). The mixture was then left to stand at room temperature overnight. Saturated aqueous sodium hydrogen carbonate (˜2 ml) was added to the mixture and stirred for 10 minutes. The organic layer was isolated by filtering through a phase separator and then washed with 2M aqueous hydrogen chloride. The organic layer was separated again and evaporated to give a yellow oil which was purified by mass-directed automated HPLC to give pure N-[(2-chloro-4-fluorophenyl)methyl]-1-ethyl-5-oxo-4-(phenylmethyl)-prolinamide (0.004 g) as a colourless oil. LC/MS [M+H]+=389, retention time=2.90 minutes.

reactant | 1-ethyl-5-oxo-4-(phenylmethyl)-proline | 0.09 mmol, 0.052 g | C(C)N1[C@H](C(=O)O)CC(C1=O)CC1=CC=CC=C1 | C14H17NO3
reactant | N-ethyl morpholine | 0.27 mmol, 0.034 ml | C(C)N1CCOCC1 | C6H13NO
reactant | 1-Hydroxybenzotriazole | 0.12 mmol, 0.016 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.12 mmol, 0.022 g | Cl.CN(CCCN=C=NCC)C
reactant | [(2-chloro-4-fluorophenyl)methyl]amine | 0.12 mmol, 0.019 g | ClC1=C(C=CC(=C1)F)CN | C7H7ClFN
reactant | sodium hydrogen carbonate | ˜2 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N-[(2-chloro-4-fluorophenyl)methyl]-1-ethyl-5-oxo-4-(phenylmethyl)-prolinamide | 0.004 g | ClC1=C(C=CC(=C1)F)CNC([C@H]1N(C(C(C1)CC1=CC=CC=C1)=O)CC)=O | C21H22ClFN2O2
